US06894061B2
1-(2′,4,4′-Trifluoro-1,1′-biphenyl-2-yl)ethanone
A stirred solution of 2-bromo-5-fluoroacetophenone (11.72 g, 54 mmol) and 2,4-difluorophenylboronic acid (8.53 g, 54 mmol) in tetrahydrofuran (600 mL) was treated under nitrogen with [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (2.20 g, 2.69 mmol, 5 mole %) and a 5 N sodium hydroxide solution (21.6 mL, 108 mmol). The reaction was heated at 60° C. for twelve hours, cooled to room temperature, and the solvent removed in vacuo. The residue was dissolved in diethyl ether, filtered through a short column of silica gel, and the solvent evaporated in vacuo to a crude brown oil (11.72 g). The crude oil was purified by preparative liquid chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a gradient of between 3% and 10% methyl tert-butyl ether in hexane at a flow rate of 50 mL/min to afford, after evaporation of the solvent, the title compound as a purified, colorless oil (7.11 g, 28.4 mmol, 52%);

reactant | 2-bromo-5-fluoroacetophenone | 54 mmol, 11.72 g | CC(=O)C1=C(C=CC(=C1)F)Br | C8H6BrFO
reactant | 2,4-difluorophenylboronic acid | 54 mmol, 8.53 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | dichloromethane | 2.69 mmol, 2.20 g | ClCCl | CH2Cl2
reactant | sodium hydroxide | 108 mmol, 5 N, 21.6 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-(2′,4,4′-Trifluoro-1,1′-biphenyl-2-yl)ethanone | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)F)C(C)=O | C14H9F3O
